US06362211B1
e) 4-(5,6,7,11b-Tetrahydro-benzo[c]fluoren-6a-yl)-1H-imidazole
2-Benzyl-2-(1H-imidazol-4-yl)-1,2,3,4-tetrahydronaphthalen-1-ol (0.68 g) was dissolved in CH3SO3H (17 ml) and heated at 140° C. for 3 hours. After cooling in an ice bath, water (80 ml) was added and pH was adjusted to 11.5-13.5 with 48% NaOH solution. The precipitated crude product (0.41 g) was filtered and washed with water. An analytical sample was purified by flash chromatography using methylene chloride/methanol (95/5) as eluent.

reactant | 2-Benzyl-2-(1H-imidazol-4-yl)-1,2,3,4-tetrahydronaphthalen-1-ol | 0.68 g | C(C1=CC=CC=C1)C1(C(C2=CC=CC=C2CC1)O)C=1N=CNC1 | C20H20N2O
reactant | water | 80 ml | O | H2O
reactant | NaOH | [OH-].[Na+]
solvent | CH3SO3H | 17 ml | CS(=O)(=O)O | CH4O3S
product | 4-(5,6,7,11b-Tetrahydro-benzo[c]fluoren-6a-yl)-1H-imidazole | C1=CC=CC=2CCC3(CC=4C=CC=CC4C3C21)C=2N=CNC2 | C20H18N2
